US05599813
N-(2-Etoxycarbonylethyl)-3,5-dichloroaniline
In 20 ml of dimethylformamide was dissolved 5.0 g of 3,5-dichloroaniline. To the solution was added 6.16 g of ethyl 3-bromopropionate, followed by heating under reflux for 6 hours. The reaction mixture was concentrated and the concentrate was extracted with ethyl acetate. The extract was washed with saturated sodium hydrogencarbonate aqueous solution and saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was subjected-to silica gel column chromatography (eluent: chloroform:hexane=1:1) to yield 3.98 g of the titled compound as a white crystal.

reactant | 3,5-dichloroaniline | 5.0 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | ethyl 3-bromopropionate | 6.16 g | BrCCC(=O)OCC | C5H9BrO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(2-Etoxycarbonylethyl)-3,5-dichloroaniline | 3.98 g | C(C)OC(=O)CCNC1=CC(=CC(=C1)Cl)Cl | C11H13Cl2NO2
